US06380242B1
(ff) 6-(3-thienyl)-1H-indazole:
(237 mg, 71%); from 6-iodo-1H-indazole (403.5 mg, 1.65 mmol) and 3-thiopheneboronic acid (236.5 mg, 1.8 mmol).

reactant | 6-iodo-1H-indazole | 1.65 mmol, 403.5 mg | IC1=CC=C2C=NNC2=C1 | C7H5IN2
reactant | 3-thiopheneboronic acid | 1.8 mmol, 236.5 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 6-(3-thienyl)-1H-indazole | S1C=C(C=C1)C1=CC=C2C=NNC2=C1 | C11H8N2S
